US07388031B2
(i) 4-Benzyloxy-3-(phenylsulphonylamino)phenyl acetate
A mixture of 5.0 g (0.0194 mol) of 4-benzyloxy-3-aminophenyl acetate, 3.3 ml (0.0236 mol) of triethylamine and 3.0 ml (0.0236 mol) of benzenesulphonyl chloride in 150 ml of methylene chloride is stirred at room temperature overnight. The mixture is then washed with water and the organic phase is dried, followed by purification by chromatography on a silica gel column, eluting with a 7/3 cyclohexane/ethyl acetate mixture. The compound of the title is obtained.

reactant | 4-benzyloxy-3-aminophenyl acetate | 0.0194 mol, 5.0 g | C(C)(=O)OC1=CC(=C(C=C1)OCC1=CC=CC=C1)N | C15H15NO3
reactant | triethylamine | 0.0236 mol, 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulphonyl chloride | 0.0236 mol, 3.0 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-Benzyloxy-3-(phenylsulphonylamino)phenyl acetate | C(C)(=O)OC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C21H19NO5S
